US07205411B2
To a solution of Cul (4.3 mg, 23 μmol) in triethylamine (5 ml) were added (2-ethynyl-6-methyl-pyridin-3-yl)amine (60 mg, 0.45 mmol), (PPh3)2PdCl2 (16 mg, 23 μmol), and 1,3-difluoro-5-iodobenzene (109 mg, 0.45 mmol). The reaction mixture was stirred at room temperature for 20 h. The solvent was evaporated to afford a brown oil which was taken up in DCM and the solution was washed with water. The aqueous phase was extracted twice with DCM. The organic phases were dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash chromatography (hexane/ethyl acetate 7:3) to yield 64 mg (0.26 mmol, 58%) of (2-(3,5-difluoro-phenylethynyl)-6-methyl-pyridin-3-yl)amine as a yellow solid.

reactant | (2-ethynyl-6-methyl-pyridin-3-yl)amine | 0.45 mmol, 60 mg | C(#C)C1=NC(=CC=C1N)C | C8H8N2
reactant | 1,3-difluoro-5-iodobenzene | 0.45 mmol, 109 mg | FC1=CC(=CC(=C1)I)F | C6H3F2I
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | (PPh3)2PdCl2 | 23 μmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (2-(3,5-difluoro-phenylethynyl)-6-methyl-pyridin-3-yl)amine | 0.26 mmol, 64 mg, 58% | FC=1C=C(C=C(C1)F)C#CC1=NC(=CC=C1N)C | C14H10F2N2
